US04343741
A solution of 20 g (0.1 mol) of p-bromo-N,N-dimethylaniline in 150 mL of anhydrous ether was treated dropwise over 1 h at 0°-5° with a solution of 40 mL of 2.45 M n-butyl lithium in hexane (0.1 mol) in 50 mL of anhydrous diethyl ether. The mixture was stirred at 0.5° for 11/4 h and then allowed to warm to 22°. An additional 1.0 mL of n-butyl lithium solution was added. The mixture was connected to a vacuum line and a distillation receiver bulb cooled in a dry ice bath. The solvents and volatile by-products were removed in vacuo (mechanical pump) at 15°-20°, leaving a pale cream powder of 4-dimethylaminophenyl lithium reagent. The solid was pulverized under argon in the same flask and then further pumped in vacuo at 25° for 20 minutes to remove all volatiles. The lithium reagent was then dissolved in 150 mL of anhydrous ether and treated rapidly with a solution of 5.8 g (5.8 mL×0.03 mol) of di(n-butyl)phosphite in 50 mL of anhydrous ether at 5°-10°. The resulting white slurry was treated with 50 mL of tetrahydrofuran, and the resulting colorless solution was allowed to stir for 12 h at 23°. The mixture was then poured into 200 mL of water and adjusted to neutral pH with a few drops of dilute aqueous sulfuric acid. The organic layer was separated, the aqueous layer was extracted once with 75 mL of diethyl ether, and the combined ether layers were washed (brine) and dried (sodium sulfate) and stripped of solvent to give the crude product as a colorless oil. Addition of 50 mL of fresh ether caused precipitation of 6.6 g (76%) of bis-(4-dimethylaminophenyl)phosphine oxide as a colorless solid, mp 140°-165°. Two recrystallizations from benzene gave 3.1 g (36%) of analytically pure product, mp 150°-170° (in air).

reactant | p-bromo-N,N-dimethylaniline | 0.1 mol, 20 g | BrC1=CC=C(N(C)C)C=C1 | C8H10BrN
reactant | n-butyl lithium | 2.45 M, 40 mL | C(CCC)[Li]
reactant | hexane | 0.1 mol | CCCCCC | C6H14
reactant | n-butyl lithium | 1.0 mL | C(CCC)[Li]
solvent | ether | 150 mL | CCOCC | C4H10O
solvent | diethyl ether | 50 mL | C(C)OCC | C4H10O
product | 4-dimethylaminophenyl lithium | CN(C1=CC=C(C=C1)[Li])C | InChI=1S/C8H10N.Li/c1-9(2)8-6-4-3-5-7-8;/h4-7H,1-2H3;
